US09359358B2
Step 4: [2-(1,4-dioxaspiro[4.5]dec-8-yloxy)-6-(trifluoromethyl)pyridin-4-yl]methanol
2-(1,4-Dioxaspiro[4.5]dec-8-yloxy)-6-(trifluoromethyl)isonicotinic acid (490.0 mg, 1.411 mmol) was dissolved in tetrahydrofuran (17.5 mL) and cooled to 0° C. 1.0 M Borane in THF (4.23 mL, 4.23 mmol) was then added and stirred at 0° C. for 10 min and at 25° C. for 16 hours when LCMS analysis showed the absence of starting material. The reaction was quenched with 1N NaOH and water, and extracted with EtOAc. The EtOAc extract was evaporated in vacuo and the residue was used in the next reaction without further purification. MS (ES): 334 (M+1).

reactant | 2-(1,4-Dioxaspiro[4.5]dec-8-yloxy)-6-(trifluoromethyl)isonicotinic acid | 1.411 mmol, 490.0 mg | O1CCOC12CCC(CC2)OC=2C=C(C(=O)O)C=C(N2)C(F)(F)F | C15H16F3NO5
reactant | Borane | 1.0 M | B | BH3
solvent | tetrahydrofuran | 17.5 mL | O1CCCC1 | C4H8O
solvent | THF | 4.23 mmol, 4.23 mL | C1CCOC1 | C4H8O
product | [2-(1,4-dioxaspiro[4.5]dec-8-yloxy)-6-(trifluoromethyl)pyridin-4-yl]methanol | O1CCOC12CCC(CC2)OC2=NC(=CC(=C2)CO)C(F)(F)F | C15H18F3NO4
